US04826870
N-[N-(γ-phenyl)butyryl-L-valyl]pyrrolidine (Compound No. 1, SUAM 1252)
After completion of the reaction, the mixture was extracted twice with ethyl ether to remove the unreacted acid chloride. The water phase was acidified by addition of hydrochloric acid. The resulting precipitate was extracted three times with ethyl acetate and the solvent was removed under vacuum, whereby N-(γ-phenyl)butyryl-L-valine was obtained. N-(γ-phenyl)butyryl-L-valine (1 equivalent) was then dissolved in dry methylene chloride (ca. 100 ml) together with pyrrolidine (1 equivalent), WSCD (1 equivalent) was added thereto and the mixture was continuously stirred at room temperature for one whole day and night. After the reaction the product had been washed successively with 1N hydrochloric acid, brine, saturated sodium bicarbonate and brine in that order, and had then been dried over anhydrous magnesium sulfate, the solvent was distilled off under vacuum and the residue was purified by column chromatography on silica gel, whereby the titled compound was obtained.

reactant | N-(γ-phenyl)butyryl-L-valine | 1 equivalent | C1(=CC=CC=C1)CCCC(=O)N[C@@H](C(C)C)C(=O)O | C15H21NO3
reactant | pyrrolidine | 1 equivalent | N1CCCC1 | C4H9N
solvent | methylene chloride | ca. 100 ml | C(Cl)Cl | CH2Cl2
product | N-[N-(γ-phenyl)butyryl-L-valyl]pyrrolidine | C1(=CC=CC=C1)CCCC(=O)N[C@@H](C(C)C)C(=O)N1CCCC1 | C19H28N2O2
